US05834499
In 50 ml of methylene chloride, 0.82 g of 6-azabicyclo[3.2.0]heptane-7-thione was dissolved. Then, 0.90 ml of triethylamine, 0.79 g of dimethylaminopyridine, and 2.81 g of di-tert-butyldicarbonate were added successively, followed by stirring at room temperature for 10 minutes. The solvent was evaporated and the resulting residue was subjected to silica gel column chromatography, whereby 1.48 g of 6-tert-butoxycarbonyl-6-azabicyclo[3.2.0]heptane-7-thione was obtained as the crystal form from the fraction eluted with hexane-ethyl acetate (2:1).

reactant | 6-azabicyclo[3.2.0]heptane-7-thione | 0.82 g | C12CCCC2NC1=S | C6H9NS
reactant | triethylamine | 0.90 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 0.79 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | di-tert-butyldicarbonate | 2.81 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 6-tert-butoxycarbonyl-6-azabicyclo[3.2.0]heptane-7-thione | 1.48 g | C(C)(C)(C)OC(=O)N1C2CCCC2C1=S | C11H17NO2S
